Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Nausea, Abdominal Pain
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Pt is a ___ yo woman who is 3.5 months post-partum w/ hx of 
celiac spruee who presents from the ED with a 3.5 month long 
history of abdominal pain and nausea.

per the patient since the birth of her child she has been having 
frequent episodes of nausea rarely associated with vomitting.  
The nausea is occasionally worse with eating, but this is not 
consistant.  She also reports frequent intermittent crampy lower 
abdominal pain that accompanies the nausea as well as frequent 
loose stools ___ per day) that reccently have had small amounts 
of BRB.  Patient states that over the past ___ weeks her 
symptoms have been more intense and occasionally she has felt as 
if she has had a fever.  Per her report her temp has been 101 on 
several past occasions including this morning prior to 
presentation to the ED.  Of note during her course she has not 
had any episodes of constipation, any rash, arthralgias or oral 
lesions.
.  
In the ED, initial vs were: 99.1, 69, 119/76, 16, 100% RA.  Per 
report a pelvic exam was normal.  She was given IV fluids and 
zofran prior to being sent to the floor.  
.  
On the floor pts vitals were 97.2, 113/61, 53, 16, 97%RA patient 
had no complaints and stated that she was feeling well and 
wanted to go home.  She denies any reccent travel, eating new 
foods, new tatoos.
.  
Review of sytems:  
(+) Per HPI  
(-) Denies night sweats, recent weight loss or gain. Denies 
headache, sinus tenderness, rhinorrhea or congestion. Denied 
cough, shortness of breath. Denied chest pain or tightness, 
palpitations. Denied nausea, vomiting, diarrhea, constipation or 
abdominal pain. No recent change in bowel or bladder habits. No 
dysuria. Denied arthralgias or myalgias.  

 
Past Medical History:
-? ENDOMETRIOSIS   
-ABNORMAL PAP SMEAR   
-ALLERGIC RHINITIS   
-CELIAC SPRUE    
-DYSMENORRHEA     
-GENITAL HERPES   
-IRRITABLE BOWEL SYNDROME   
-LACTOSE INTOLERANCE   
-VITAMIN D INSUFFICIENCY 

 
Social History:
___
Family History:
No history of IBS, chrons or UC.

 
Physical Exam:
ON ADMISSION:
Vitals: T: 97.2, 113/61, 53, 16, 97RA   
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, tender only with deep palpation, non-distended.  
+ bowel sounds.  no rebound or guarding.   
Ext: warm, well-perfused.  no cyanosis, clubbing, or edema.
Neuro: CN II-XII intact.  Strength ___ throughout. motor 
function grossly normal  
.
.
ON DISCHARGE:
Physical Exam:  
Vitals: 97.3, 97/52, 64, 18, 99RA
I/O: NR
General: well NAD
HEENT: PEERLA, OP Clear, EOMI
Lungs: CTAB
CV:   s1 s2 no MRG
Abdomen:  soft, non-tender 

 
Pertinent Results:
___ 05:45AM BLOOD WBC-4.7 RBC-4.55 Hgb-14.0 Hct-40.6 MCV-89 
MCH-30.8 MCHC-34.5 RDW-12.9 Plt ___
___ 03:30PM BLOOD Neuts-72.8* ___ Monos-3.4 Eos-2.1 
Baso-0.2
___ 03:30PM BLOOD ESR-1
___ 05:45AM BLOOD Glucose-83 UreaN-11 Creat-0.7 Na-141 
K-4.1 Cl-110* HCO3-22 AnGap-13
___ 03:30PM BLOOD ALT-15 AST-18 AlkPhos-85 TotBili-0.4
___ 03:30PM BLOOD Albumin-4.8 Calcium-10.0 Phos-3.8 Mg-2.___ssessment and Plan:  
___ yo w/ hx of celiac and IBS 3.5 months post-partum presenting 
with 3 months of worsening abdominal pain, nausea and loose 
stools.
.
Fever:  Patient initially presented to the ED after having had a 
temperature of 101 at home in the setting of abdominal pain, 
bright red blood in her stool and nausea.  Upon arrival to the 
ED patient's symptoms had largely resolved and she was afebrile. 
 She was given IV fluids and admitted where she was presistantly 
afebrile.  Stool cultures were sent and were pending at the time 
of discharge, but given long standing symptoms over several 
months infeciton was of low likelihood.  
.
GI Distress: patient reports several months worth of abdominal 
pain, nausea, rare vomitting and loose stools.  all of these 
symptoms were consistant with her history of celiac disease.  No 
correlation could be made however between specific events and 
the patient's waxing and waning symptoms.  Infectious etiology 
was evlauated but was not considered very likely as symptoms had 
been persistant for several months.  Inflammatory markers were 
sent and were not elevated.  Etiologies such as diet refractory 
celiac, coconiment lactose intolerance, bacterial overgrowth, 
undiagnosed inflammatory bowel disease, pancreatic insufficency, 
or villous atrophy.  LFTs were normal, but given history of 
tatooing hepatitis serologies were sent.  Will require 
additional outpatient follow up with primary care and 
gastroenterology.  
.
Bloody Stool:  Patient complained of occasional blood in her 
stool prior to presentation.  Her stools in house were heme 
negative and her symptoms felt to either be due to an 
inflammatory bowel process (unlikely as low inflammatory 
markers) vs irriation of her known internal hemmrhoids.
.
Dizziness:  patient's discription was not suggestive of BPV and 
sounded more consistant with occasional low perfusion.  Fluid 
loss from diarrhea was a possibility and patient was given IV 
fluids.  Not orthostatic currently.
.
TRANSITIONAL ISSUES:  
-Patient had pending stool and hepatitis serologies pending at 
the time of discharge that will need to followed up by her PCP.

 
Medications on Admission:
-Prenatal Vitamin
 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Nausea
2. celiac disease
3. irritable bowel syndrome

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

You were admitted to the hospital for abdominal pain and 
frequent loose stools.  Your blood work did not show evidence of 
infection and you did not have any fevers while in the hospital. 
 Your symptoms were felt to be related to your celiac disease 
rather than an infection.  You will need to be seen your 
gastroenterologist as well as your PCP to further evaluate these 
symptoms.

MEDICATION CHANGES:
- none

Please seek medical attention for worsening symptoms or any 
other concerns. Please keep your appointments below.
 
Followup Instructions:
___